// Generated for: spectre
// Generated on: Oct 17 23:13:51 2017
// Design library name: hw3_p3
// Design cell name: p3
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vin=0
include "/afs/ir.stanford.edu/class/ee315/models/ee315.mod"
include "/afs/.ir.stanford.edu/users/l/e/lenius/ee315/cadence/opus/hw3_save_op.scs"

// Library name: hw3_p3
// Cell name: p3
// View name: schematic
MN (out vdd! in 0) nmos w=10u l=0.18u
V1 (in 0) vsource dc=vin type=dc
V0 (vdd! 0) vsource dc=1.8 type=dc
MP (out 0 in vdd!) pmos w=35.2u l=0.18u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" save=all print=yes maxiters=150 maxsteps=10000 \
    annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vin start=0 stop=1.8 save=all print=yes oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save in out 
saveOptions options save=all currents=all
